US07001913B1
(a) Methyl 4-amino-1-tert-butoxycarbonylpiperidine-4-carboxylate
4-Amino-1-tert-butoxycarbonylpiperidine-4-carboxylate (5 g) in acetonitrile (22 ml) and methanol (2 ml) was treated with diisopropylethylamine (3.65 ml) and trimethylsilyldiazomethane (2M in hexane, 13.9 ml). After overnight stirring and evaporation of solvent, the crude product was chromatographed on silica gel (0–50% ethyl acetate/petrol) to give a yellow oil (4 g, 76%).

reactant | 4-Amino-1-tert-butoxycarbonylpiperidine-4-carboxylate | 5 g | NC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)[O-]
reactant | diisopropylethylamine | 3.65 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trimethylsilyldiazomethane | 2M, 13.9 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | acetonitrile | 22 ml | C(C)#N | C2H3N
solvent | methanol | 2 ml | CO | CH4O
product | Methyl 4-amino-1-tert-butoxycarbonylpiperidine-4-carboxylate | 4 g, 76% | NC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C12H22N2O4
